US07125901B2
To a solution of methyl 4-{2-amino-5-[4-(methylthio)phenyl]-1,3-thiazol-4-yl}benzoate (100 mg) in tetrahydrofuran (4 ml) was added portionwise lithium aluminium hydride (21.3 mg), and the mixture was stirred for 1 h at 20° C. To the reaction mixture were added ethyl acetate (10 ml) and water (3 ml). The resulting precipitate was removed by filtration, and the filtrate was washed with brine, dried over sodium sulfate and evaporated to give (4-{2-amino-5-[4-(methylthio)phenyl]-1,3-thiazol-4-yl}phenyl)methanol as a yellow solid, that was used as crude in the next reaction.

reactant | methyl 4-{2-amino-5-[4-(methylthio)phenyl]-1,3-thiazol-4-yl}benzoate | 100 mg | NC=1SC(=C(N1)C1=CC=C(C(=O)OC)C=C1)C1=CC=C(C=C1)SC | C18H16N2O2S2
reactant | lithium aluminium hydride | 21.3 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 3 ml | O | H2O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | (4-{2-amino-5-[4-(methylthio)phenyl]-1,3-thiazol-4-yl}phenyl)methanol | NC=1SC(=C(N1)C1=CC=C(C=C1)CO)C1=CC=C(C=C1)SC | C17H16N2OS2
